US04369320
N-[(4,6-dimethoxypyrimidin-2-yl)aminocarbonyl]-8-quinolinesulfonamide
To 0.86 g sodium methoxide in 15 ml methanol is added 1.6 g of N-[(4,6-dichloropyrimidin-2-yl)aminocarbonyl]-8-quinolinesulfonamide portionwise. This mixture is then heated to reflux temperature for 2 hours. The resultant white suspension is cooled to room temperature and filtered. The filtered white solid is dissolved up in a minimum amount of water and carefully acidified with 10% aqueous hydrochloric acid. The resultant white solid is filtered to give 0.65 g, m.p. 175°-177° C.

reactant | sodium methoxide | 0.86 g | C[O-].[Na+]
reactant | N-[(4,6-dichloropyrimidin-2-yl)aminocarbonyl]-8-quinolinesulfonamide | 1.6 g | ClC1=NC(=NC(=C1)Cl)NC(=O)NS(=O)(=O)C=1C=CC=C2C=CC=NC12 | C14H9Cl2N5O3S
reactant | methanol | 15 ml | CO | CH4O
product | N-[(4,6-dimethoxypyrimidin-2-yl)aminocarbonyl]-8-quinolinesulfonamide | COC1=NC(=NC(=C1)OC)NC(=O)NS(=O)(=O)C=1C=CC=C2C=CC=NC12 | C16H15N5O5S
